US08563596B2
(D). (−)-trans-2-(2-Chloro-4-nitrophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one hydrochloride
(−)-trans-2-(2-Chloro-4-nitrophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl pyrrolidin-3-yl)-chromen-4-one (0.2 g, 0.4 mmol) was suspended in methanol (10 mL) and treated with ethereal HCl and the organic solvent evaporated to get the title salt.

reactant | (−)-trans-2-(2-Chloro-4-nitrophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methyl pyrrolidin-3-yl)-chromen-4-one | 0.4 mmol, 0.2 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | C21H19ClN2O7
reactant | HCl | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | (−)-trans-2-(2-Chloro-4-nitrophenyl)-5,7-dihydroxy-8-(2-hydroxymethyl-1-methylpyrrolidin-3-yl)-chromen-4-one hydrochloride | Cl.ClC1=C(C=CC(=C1)[N+](=O)[O-])C=1OC2=C(C(=CC(=C2C(C1)=O)O)O)[C@H]1[C@@H](N(CC1)C)CO | InChI=1S/C21H19ClN2O7.ClH/c1-23-5-4-12(14(23)9-25)19-15(26)7-16(27)20-17(28)8-18(31-21(19)20)11-3-2-10(24(29)30)6-13(11)22;/h2-3,6-8,12,14,25-27H,4-5,9H2,1H3;1H/t12-,14+;/m1./s1
